US07060827B2
In a manner analogous to the preparation of N2,N4-bis[4-(ethylaminocarbonylamino)phenyl]-5-fluoro-2,4-pyrimidinediamine, the reaction of 1,3-diaminobenzene (2 g, 18.5 mmol), ethyl isocyanate (0.5 mL, 6.3 mmol) and potassium carbonate (4.36 g, 31.5 mmol) gave 3-(ethylaminocarbonylamino)aniline (940 mg, 83%). The reaction of 3-(ethylaminocarbonylamino)aniline (537 mg, 3 mmol) and 2,4-dichloro-5-fluoropyrimidine (100 mg, 0.6 mmol) gave N2,N4-bis[3-(ethylaminocarbonylamino)phenyl]-5-fluoro-2,4-pyrimidinediamine (180 mg, 66%) as a white solid. 1H NMR (CD3OD): δ 1.14 (t, J=6.9 Hz, 3H), 1.15 (t, J=7.5 Hz, 3H), 3.21 (q, J=7.2 Hz, 2H), 3.22 (q, J=7.5 Hz, 2H), 7.06 (ddd, J=0.9, 2.1, 7.8 Hz, 1H), 7.10–7.28 (m, 5H), 7.53 (t, J=2.1 Hz, 1H), 7.80 (m, 1H), 7.92 (d, J=5.7 Hz, 1H); LCMS: ret. time: 17.17 min.; purity: 89.63%; MS (m/e): 453.38 (MH+).

reactant | 3-(ethylaminocarbonylamino)aniline | 3 mmol, 537 mg | C(C)NC(=O)NC=1C=C(N)C=CC1 | C9H13N3O
reactant | 2,4-dichloro-5-fluoropyrimidine | 0.6 mmol, 100 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | N2,N4-bis[3-(ethylaminocarbonylamino)phenyl]-5-fluoro-2,4-pyrimidinediamine | 180 mg, 66% | C(C)NC(=O)NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)NC(=O)NCC)F | C22H25FN8O2
